US06605124B1
0.25 ml of N-methylimidazole (3.1 mmol) was introduced into a solution of N-(5-acetylamino-1-hydroxynaphthalen-2-yl)-2-chloroacetamide obtained above in step d) (0.9 g, 3 mmol) in 20 ml of dioxane. The reaction medium was heated under reflux for 7 hours and 30 minutes. The precipitate formed was drained, washed abundantly with dioxane and dried under vacuum to constant weight to give 0.82 g of 3-[(1-hydroxy-5-acetylaminonaphthalen-2-ylcarbamoyl)methyl]-1-methyl-3H-imidazol-1-ium chloride in the form of a red powder melting at 168° C. and with a yield of 73%. Cation mass spectroscopy analysis: m/z=338 of the product obtained was consistent with that of the product obtained.

reactant | N-methylimidazole | 3.1 mmol, 0.25 ml | CN1C=NC=C1 | C4H6N2
reactant | N-(5-acetylamino-1-hydroxynaphthalen-2-yl)-2-chloroacetamide | C(C)(=O)NC1=C2C=CC(=C(C2=CC=C1)O)NC(CCl)=O | C14H13ClN2O3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-[(1-hydroxy-5-acetylaminonaphthalen-2-ylcarbamoyl)methyl]-1-methyl-3H-imidazol-1-ium chloride | 0.82 g, yield of 73% | [Cl-].OC1=C(C=CC2=C(C=CC=C12)NC(C)=O)NC(=O)CN1C=[N+](C=C1)C | InChI=1S/C18H18N4O3.ClH/c1-12(23)19-15-5-3-4-14-13(15)6-7-16(18(14)25)20-17(24)10-22-9-8-21(2)11-22;/h3-9,11H,10H2,1-2H3,(H2-,19,20,23,24,25);1H
